datasets/10k_Mayr_OG.csv
SMILES Labelled
"C[O:86][C:85]1=[CH:84][CH:83]=[C:82]([Si:11]([H:10])([CH3:62])[CH3:72])[CH:94]=[CH:93]1.FC(F)(F)[S:20][N:21]1[C:22](=[O:23])CC[C:32]1=[O:33]>>C1C[C:32](=[O:33])[N:21]=[C:22]1[O-:23].C[O:86][C:85]1=[CH:84][CH:83]=[C:82]([Si+:11]([CH3:62])[CH3:72])[CH:94]=[CH:93]1.FC(F)(F)[S:20][H:10] 10,11=10,20;20,21=21,22;22,23=23"
C[C:61]([CH-:10][C:71](C)=[O:72])=[O:62].Cl[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>C[C:61]([CH:10]([CH:20]([C:31]1=[CH:32][CH:33]=[C:34](Cl)[CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]1)[C:71](C)=[O:72])=[O:62] 10=20
"C[Si:63](C)(C)[O:12][C:11]1=[CH:10]CCC1.[O-][N+]1=[C:33]2[C:32](=NO1)[C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]1=[N+:42]([O-])O[N:35]=[C:34]21>>C[Si:63](C)(C)[O+:12]=[C:11]1CCC[CH:10]1[CH:20]1[C:21](=[N+:22]([O-])[O-:23])[C:32]2=NO[N+]([O-])=[C:33]2[C:34]2=[N:35]O[N+:42]([O-])=[C:41]12 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C([S:61]([CH-:10][C:91]([C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)=[O:92])(=[O:62])=[O:72])C=C1.C[C:21]1=[CH:20]CC[C:22]1=[O:23]>>C[C:21]1=[C:22]([O-:23])CC[CH:20]1[CH:10]([S:61](C1=CC=CC=C1)(=[O:62])=[O:72])[C:91]([C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1)=[O:92] 10=20;20,21=21,22;22,23=23"
"CC[O:72][C:61]([C:10]1=[C:11]([O-:12])CCCCC1)=[O:62].O=[N+]([O-])[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]12>>CC[O:72][C:61]([C:10]1([CH:20]2[C:21](=[N+:22]([O-])[O-:23])[CH:32]=[C:33]([N+](=O)[O-])[C:34]3=[N:35]O[N+:42]([O-])=[C:41]23)CCCCC[C:11]1=[O:12])=[O:62] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C([C:22]([CH:21]=[CH2:20])=[O:23])C=C1.C[N:12]1[C:11]([H:10])([C:72]2=[CH:73][CH:74]=[C:75]([N+:76](=[O:77])[O-:97])[CH:84]=[CH:83]2)[N:62](C)[C:93]2=[C:94]1C=CC=C2>>C1=CC=C([C:22](=[CH:21][CH2:20][H:10])[O-:23])C=C1.C[N+:12]1=[C:11]([C:72]2=[CH:73][CH:74]=[C:75]([N+:76](=[O:77])[O-:97])[CH:84]=[CH:83]2)[N:62](C)[C:93]2=[C:94]1C=CC=C2 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1C[CH:10]=[CH:11][CH:62]=[CH:63]C1.CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](C#N)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33]>>CC[O:34][C:32]([C:21]([CH:20]([CH:10]1CCC[CH:63]=[CH:62][CH+:11]1)[C:41]1=[CH:42][CH:43]=[C:44](C#N)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;20,21=21,22;22,23=23"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][C:43](Cl)=[CH:44][CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].C[N:12]1[CH:11]=[CH:10][C:62]2=[C:61]1[CH:66]=[CH:65][C:64]([B-:82](F)(F)F)=[CH:63]2>>CC[O:34][C:32]([C:21]([CH:20]([CH:10]1[CH:11]=[N+:12](C)[C:61]2=[C:62]1[CH:63]=[C:64]([B-:82](F)(F)F)[CH:65]=[CH:66]2)[C:41]1=[CH:42][C:43](Cl)=[CH:44][CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C/[C:11](=[C:10]1\CCC[O:72][C:61]1=[O:62])[O-:12].C[N+:23]1=[CH:22]/[C:21](=[CH:20]\[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)C2=CC=CC=C21>>C[C:11]([C:10]1([CH:20]([C:21]2=[CH:22][N:23](C)C3=CC=CC=C32)[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)CCC[O:72][C:61]1=[O:62])=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC1=CC=C([S:32](/[CH:21]=[CH:20]/C2=CC=CC=C2)(=[O:33])=[O:34])C=C1.ClC1=CC=C([S:61]([CH-:10]Cl)(=[O:62])=[O:72])C=C1>>CC1=CC=C([S:32]([CH-:21][CH:20](C2=CC=CC=C2)[CH:10](Cl)[S:61](C2=CC=C(Cl)C=C2)(=[O:62])=[O:72])(=[O:33])=[O:34])C=C1 10=20;20,21=21"
"CC[N:82]1[C:11]([O-:12])=[CH:10][C:61](=[O:62])[N:82](CC)[C:73]1=[S:74].COC1=CC=C([C:22]2=[O+:23][C:32]3=[C:31](C=CC=C3)[CH:20]=[CH:21]2)C=C1>>CC[N:82]1[C:11](=[O:12])[CH:10]([CH:20]2[CH:21]=[C:22](C3=CC=C(OC)C=C3)[O:23][C:32]3=[C:31]2C=CC=C3)[C:61](=[O:62])[N:82](CC)[C:73]1=[S:74] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:33][C:22]([C:21](C)=[CH2:20])=[O:23].C[N:14](C)[C:13]1=[C:12](Br)[CH:11]=[N:10][CH:61]=[CH:62]1>>CC[O:33][C:22](=[C:21](C)[CH2:20][N:10]1[CH:11]=[C:12](Br)[C:13](=[N+:14](C)C)[CH:62]=[CH:61]1)[O-:23] 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
C1=CC=C([C:62]([NH:61][NH2:10])=[O:63])C=C1.[O+]#C[Co-3:32]12(C#[O+])(C#[O+])C3[C:31]1([CH+:20][C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)[Co-3:42]32(C#[O+])(C#[O+])[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1>>[O+]#C[Co-3:32]12(C#[O+])(C#[O+])C3[C:31]1([CH:20]([NH2+:10][NH:61][C:62](C1=CC=CC=C1)=[O:63])[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)[Co-3:42]32(C#[O+])(C#[O+])[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20
"C1C[C:63]2=[C:62]([CH:11]=[CH:10]1)[CH:67]=[CH:66][CH:65]=[CH:64]2.CC(C)[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)=[O:23]>>CC(C)[C:22](=[CH:21][CH:20]([CH:10]1CC[C:63]2=[C:62]([CH+:11]1)[CH:67]=[CH:66][CH:65]=[CH:64]2)[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)[O-:23] 10,11=10,20;20,21=21,22;22,23=23"
"C1CCC[C:20](=[O:21])CC1.C=C(C)CCCC[C:11](C)=[CH2:10]>>C=C(C)CCCC[C+:11](C)[CH2:10][C:20]1([O-:21])CCCCCC1 10,11=10,20;20,21=21"
